US05518903
To a mixture of (±)-3-aminobutanoic acid 10.0 g (97.0 mmol), sodium hydroxide 4.4 g (106 mmol ), dioxane 100 ml and water 200 ml, di-tert-butyldicarbonate 23.5 g (108 mmol) was added dropwise on ice cooling. The mixture was stirred for 24 hours at room temperature. After the organic layer was concentrated, potassium hydrogen sulfate 17.3 g (dissolved in water 85 ml) was added on ice cooling. The mixture was extracted with ethyl acetate, and the extract was washed with a saturated solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated to obtain crude 3-tert-butoxycarbonylaminobutanoic acid 17.6 g. The crude product 17.6 g (86.6 mmol) was dissolved in dimethylformamide 130 ml. After adding potassium hydrogen carbonate 13.0 g (130 mmol) and methyl iodide 27.3 g (192 mmol), the mixture was stirred for 24 hours at room temperature. The reaction mixture was added to ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and a saturated solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated to obtain crude methyl 3-tert-butoxycarbonylaminobutanoate 18.8 g. The product was purified by silica gel column chromatography (heptane:ethyl acetate=5:1) to obtain (±)-methyl 3-tert-butoxycarbonylaminobutanoate 16.5 g (76.0 mmol). Yield 78%.

reactant | (±)-3-aminobutanoic acid | 97.0 mmol, 10.0 g | NC(CC(=O)O)C | C4H9NO2
reactant | sodium hydroxide | 106 mmol, 4.4 g | [OH-].[Na+]
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | di-tert-butyldicarbonate | 108 mmol, 23.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 200 ml | O | H2O
product | 3-tert-butoxycarbonylaminobutanoic acid | 17.6 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)C | C9H17NO4
